US09107916B2
A. 2-[5-[(3,4-dichlorophenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (3,4-dichlorophenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 5.12 (2H, s), 5.66 (1H, d, J=1.6 Hz), 7.20 (1H, d, J=2.0 Hz), 7.35 (1H, dd, J=1.2, 5.2 Hz), 7.40 (1H, d, J=8.0 Hz), 7.52 (2H, m), 7.98 (1H, s), 8.64 (1H, d, J=4.8 Hz). [M+H] Calc'd for C16H10C12N4O, 345. Found, 345.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (3,4-dichlorophenyl)methanol | ClC=1C=C(C=CC1Cl)CO | C7H6Cl2O
product | 2-[5-[(3,4-dichlorophenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | ClC=1C=C(C=CC1Cl)COC1=CC=NN1C1=NC=CC(=C1)C#N | C16H10Cl2N4O
